US07745641B2
In a similar manner to Step 1 of Example 433, 4-chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)methylindol-2-yl]isoindolinone (100 mg, 0.202 mmol) was suspended in acetonitrile (5.0 mL), and the suspension was treated with cesium carbonate (98.7 mg, 0.303 mmol) and 1-chloro-3-iodopropane (0.026 mL, 0.242 mmol), followed by purification by flash column chromatography (chloroform/methanol=19/1, 4/1) to obtain 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (97.7 mg, yield 84%).

reactant | 4-chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)methylindol-2-yl]isoindolinone | 0.202 mmol, 100 mg | ClC1=C2CNC(C2=C(C=C1O)C=1N(C2=CC=C(C=C2C1C)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H32ClN3O4
reactant | cesium carbonate | 0.303 mmol, 98.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-chloro-3-iodopropane | 0.242 mmol, 0.026 mL | ClCCCI | C3H6ClI
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 97.7 mg, yield 84% | ClC1=C2CNC(C2=C(C=C1OCCCCl)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H35Cl2N3O4
